US07692015B2
The preparation of (R,R)-2,8-diazabicyclo[4.3.0]nonane (Formula I-b)
The title compound (9.12 g) is prepared from mixture system of (R,R)-6-(toluene-4-sulfonyl)-octahydro-pyrrolo[3,4-b]pyridine (24.0 g), hydrobromic acid (48%, 156 ml), propionic acid (72 ml) and phenol (14.6 g) following the same procedure described in example 9. After conventional work up and distillation 3.4 g of oil is obtained (yield: 78.0%).

reactant | (R,R)-6-(toluene-4-sulfonyl)-octahydro-pyrrolo[3,4-b]pyridine | 24.0 g | C1(=CC=C(C=C1)S(=O)(=O)N1C[C@@H]2NCCC[C@@H]2C1)C | C14H20N2O2S
reactant | hydrobromic acid | 156 ml | Br | BrH
reactant | propionic acid | 72 ml | C(CC)(=O)O | C3H6O2
reactant | phenol | 14.6 g | C1(=CC=CC=C1)O | C6H6O
product | (R,R)-2,8-diazabicyclo[4.3.0]nonane | 9.12 g, yield: 78.0% | [C@H]12NCCC[C@@H]2CNC1 | C7H14N2
